US04686221
To 1-formyl-4-hydroxypiperazine (5.0 g) is added 3N hydrochloric acid (50 ml) and the mixture is heated at 77°-87° C. with stirring for 20 minutes and water is removed from the mixture under reduced pressure to yield a pale yellow residue. After washing with ethanol, the residue is crystallized from a mixture of water and ethanol to give 1-hydroxypiperazine dihydrochloride (5.0 g) as light brown prisms, m.p. 164°-175° C. (decomposition).

reactant | 1-formyl-4-hydroxypiperazine | 5.0 g | C(=O)N1CCN(CC1)O | C5H10N2O2
reactant | hydrochloric acid | 3N, 50 ml | Cl | ClH
product | 1-hydroxypiperazine dihydrochloride | 5.0 g | Cl.Cl.ON1CCNCC1 | InChI=1S/C4H10N2O.2ClH/c7-6-3-1-5-2-4-6;;/h5,7H,1-4H2;2*1H
